US07528164B2
2-Amino-3-cyano-4-(3,4,5-trimethoxyphenyl)-7-methyl-4H-pyrrolo[2,3-h]chromene
To a mixture of 3,4,5-trimethoxybenzaldehyde (53 mg, 0.27 mmol), 4-hydroxy-1-methylindole (40 mg, 0.27 mmol) and malononitrile (18 mg, 0.27 mmol) in 1.5 mL of ethanol was added piperidine (0.01 ml, 0.1 mmol). The solution was stirred at room temperature overnight and precipitates were observed. The precipitates were collected by filtration and dried to yield 70 mg (66%) of title compound as white solids. 1H NMR (CDCl3): 7.06-7.02 (m, 2H), 6.80 (d, J=8.1 Hz, 1H), 6.57 (d, J=2.4 Hz, 1H), 6.42 (s, 2H), 4.79 (s, 1H), 4.66 (s, 2H), 3.81-3.78 (m, 12H).

reactant | 3,4,5-trimethoxybenzaldehyde | 0.27 mmol, 53 mg | COC=1C=C(C=O)C=C(C1OC)OC | C10H12O4
reactant | 4-hydroxy-1-methylindole | 0.27 mmol, 40 mg | OC1=C2C=CN(C2=CC=C1)C | C9H9NO
reactant | malononitrile | 0.27 mmol, 18 mg | C(CC#N)#N | C3H2N2
reactant | piperidine | 0.1 mmol, 0.01 ml | N1CCCCC1 | C5H11N
solvent | ethanol | 1.5 mL | C(C)O | C2H6O
product | 2-Amino-3-cyano-4-(3,4,5-trimethoxyphenyl)-7-methyl-4H-pyrrolo[2,3-h]chromene | 70 mg, 66% | NC=1OC2=C3C(=CC=C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)OC)N(C=C3)C | C22H21N3O4
